US07973126B2
Synthesis of 2-(4-Hydroxybenzoyl)-pyrrole (7)
To a stirred suspension of 4-hydroxybenzoic acid (5.50 g, 40.0 mmol) in CH3CN cooled to 0° C. was added trifluoroacetic anhydride (10 mL, 72.0 mmol). After 15 minutes had passed, the benzoic acid dissolved. To this cooled solution at 0° C. was added 1-(p-tolylsulfonyl)pyrrole (8.85 g, 40.0 mmol) followed by enough CH2Cl2 to dissolve the pyrrole at this temperature. An additional volume of trifluoroacetic anhydride (10 mL, 72.0 mmol) was added to the reaction mixture followed by H3PO4 (2 mL, 37.0 mmol) with rapid stirring. After the reaction mixture was stirred at room temperature for 12 h, additional trifluoroacetic anhydride (6 mL, 43.2 mmol) and 4-hydroxybenzoic acid (4.00 g, 29.0 mmol) were added and stirring was continued for 12 hours. After this time had passed the solvents were removed to dryness and the residue was suspended in 5% NaOH (250 mL) and stirred overnight. The suspension was removed by filtration and the filter cake was washed with 5% NaOH (250 mL). To the filtrate was added a saturated solution of NaHCO3 (200 mL) and the pH of the solution was rendered neutral by adding concentrated HCl. A pink microcrystalline material formed and was collected by filtration, washed with water and dried. Yield 3.30 g, 44%. 1H NMR (500 MHz, CD2Cl2, 25° C.) δ6.35 (m, 1H), 6.90 (m, 1H), 6.94 (d, 2H), 7.14 (m, 1H), 7.87 (d, 2H), 9.70 (bs, 1H).

reactant | 4-hydroxybenzoic acid | 40.0 mmol, 5.50 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | trifluoroacetic anhydride | 72.0 mmol, 10 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-(p-tolylsulfonyl)pyrrole | 40.0 mmol, 8.85 g | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=C1)C | C11H11NO2S
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | trifluoroacetic anhydride | 72.0 mmol, 10 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | H3PO4 | 37.0 mmol, 2 mL | OP(=O)(O)O | H3O4P
reactant | trifluoroacetic anhydride | 43.2 mmol, 6 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-hydroxybenzoic acid | 29.0 mmol, 4.00 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
solvent | CH3CN | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-Hydroxybenzoyl)-pyrrole | OC1=CC=C(C(=O)C=2NC=CC2)C=C1 | C11H9NO2
